US06576645B1
4-Benzyloxy-2-(4-chlorophenyl)-1-[4-(2-dimethylaminoethoxy)phenyl]butan-1-one
The mixture containing 2-(4-chlorophenyl)-1-[4-(2-dimethylaminoethoxy)phenyl]ethanone (6.3 g, 0.020 mol) and TBABr (0.5 g) in toluene (70 ml) is heated to 70° C. and 48% aqueous sodium hydroxide (70 ml) is added. The mixture is stirred for 30 min. and (2-bromoethoxymethyl)benzene (5.5 g, 0.025 mol) is added dropwise at 85-90° C. The reaction mixture is stirred at 95-100° C. for 3 h. The layers are separated and the aqueous phase is extracted with toluene. The combined organic phases are washed with water and the solvent is evaporated. The residual product (9.0 g) is used in the next reaction step without further purification.

reactant | 2-(4-chlorophenyl)-1-[4-(2-dimethylaminoethoxy)phenyl]ethanone | 0.020 mol, 6.3 g | ClC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OCCN(C)C | C18H20ClNO2
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | (2-bromoethoxymethyl)benzene | 0.025 mol, 5.5 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
catalyst | TBABr | 0.5 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Benzyloxy-2-(4-chlorophenyl)-1-[4-(2-dimethylaminoethoxy)phenyl]butan-1-one | C(C1=CC=CC=C1)OCCC(C(=O)C1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)Cl | C27H30ClNO3
